US05811389
A suspension of 15.0 g (57.8 mmol) of 3,7-dimethoxyphenothiazine, 31.9 g (0.231 mmol) of powdered potassium carbonate, 61.29 g (0.289 mol) of 1 -iodohexane and 1.6 g (5.0 mmol) of tris-[2-(2-methoxymethoxy)ethyl]amine was heated to 110° for 64 hours. The working up was effected analogously to that described in Example 4.1.1.b. After chromatography on silica gel with ethyl acetate/hexane (1:4) 18.33 g (91.8%) of 10-hexyl-3,7-dimethoxy-phenothiazine were obtained as a brownish oil.

reactant | 3,7-dimethoxyphenothiazine | 57.8 mmol, 15.0 g | COC=1C=CC=2NC3=CC=C(C=C3SC2C1)OC | C14H13NO2S
reactant | potassium carbonate | 0.231 mmol, 31.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1 -iodohexane | 0.289 mol, 61.29 g | ICCCCCC | C6H13I
solvent | ethyl acetate hexane | 18.33 g | C(C)(=O)OCC.CCCCCC
product | 10-hexyl-3,7-dimethoxy-phenothiazine | C(CCCCC)N1C2=CC=C(C=C2SC=2C=C(C=CC12)OC)OC | C20H25NO2S
